US05354769
1-ethyl-2-(6-methoxybenzofuran-2-yl)imidazole hydrochloride
This was prepared from 2-(6-methoxybenzofuran-2-yl) imidazole hydrochloride and ethyl bromide according to the procedure of example 2; m.p.=259°-261 ° C.

reactant | 2-(6-methoxybenzofuran-2-yl) imidazole hydrochloride | Cl.COC1=CC2=C(C=C(O2)C=2NC=CN2)C=C1
reactant | ethyl bromide | C(C)Br | C2H5Br
product | 1-ethyl-2-(6-methoxybenzofuran-2-yl)imidazole hydrochloride | Cl.C(C)N1C(=NC=C1)C=1OC2=C(C1)C=CC(=C2)OC | InChI=1S/C14H14N2O2.ClH/c1-3-16-7-6-15-14(16)13-8-10-4-5-11(17-2)9-12(10)18-13;/h4-9H,3H2,1-2H3;1H
